US05059609
7,8-Dihydro-7-methyl-3-(2-quinolyl)methoxy-5(6H)-quinolone
By the method of Example 55, 7,8-dihydro-3-hydroxy-7-methyl-5(6H)-quinolone and 2-chloromethylquinoline were converted to present title product in 67% yield, m.p. 141°-144° C.

reactant | 7,8-dihydro-3-hydroxy-7-methyl-5(6H)-quinolone | OC=1C=NC=2CC(CC(C2C1)=O)C | C10H11NO2
reactant | 2-chloromethylquinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
product | 7,8-Dihydro-7-methyl-3-(2-quinolyl)methoxy-5(6H)-quinolone | 67% yield | CC1CC(C=2C=C(C=NC2C1)OCC1=NC2=CC=CC=C2C=C1)=O | C20H18N2O2
